US07259266B2
Step 1. Preparation of ethyl 8-phenyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 21a, Step 2 (0.500 g, 1.04 mmole), phenylboronic acid (133 mg, 1.09 mmole), Pd(OAc)2 (7.00 mg, 0.031 mmole), triphenyl phosphine (24.4 mg, 0.093 mmole), and NaHCO3 (132 mg, 1.25 mmole) in toluene (25 mL) and H2O (5 mL) was stirred at room temperature for 21 hrs and was then refluxed for 1 h. Pd(PPh3)4 (120 mg, 0.104 mmole) was added and the mixture was refluxed for 1.5 hrs. LCMS indicated that the product was increased slightly. Additional Pd(PPh3)4 (120 mg, 0.104 mmole), NaHCO3 (132 mg, 1.25 mmole) and phenylboronic acid (133 mg, 1.09 mmole) and EtOH (10 mL) to above mixture and the mixture was refluxed overnight. After cooling, the mixture was then poured into brine (100 mL) and extracted with EtOAc (100 mL). The EtOAc layer was separated, dried over MgSO4 and filtered. The crude product was purified by silica chromatography (0-10% EtOAc—hexanes) to give 336 mg (85%, yield) of the product as an off-white solid: EIHRMS m/z 432.0807 (M+, C20H14F6O4, Calc'd 432.0796).

reactant | ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | IC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C14H9F6IO4
reactant | phenylboronic acid | 1.09 mmole, 133 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenyl phosphine | 0.093 mmole, 24.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaHCO3 | 1.25 mmole, 132 mg | C(=O)(O)[O-].[Na+]
reactant | NaHCO3 | 1.25 mmole, 132 mg | C(=O)(O)[O-].[Na+]
reactant | phenylboronic acid | 1.09 mmole, 133 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 5 mL | O | H2O
solvent | brine | 100 mL | [Cl-].[Na+].O
catalyst | Pd(OAc)2 | 0.031 mmole, 7.00 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(PPh3)4 | 0.104 mmole, 120 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.104 mmole, 120 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 10 mL | CCO | C2H6O
product | ethyl 8-phenyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C1(=CC=CC=C1)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C20H14F6O4
